US08012976B2
2-(4-Bromophenyl)pyrrolidine
NaBH4 (1.52 g, 40 mmol) was added to a solution of 5-(4-bromophenyl)-3,4-dihydro-2H-pyrrole (4.48 g, 20 mmol) in H2O/MeOH (30 mL, v/v 1:4) at −41° C. After stirred for 4 hrs, the solution was allowed to warm to room temperature. Once the reaction was deemed complete by TLC, the unreacted NaBH4 was quenched by the addition of 2 N HCl. The solution was then diluted with water and ether, and separated two layers. The aqueous layer was washed with an additional portion of ether, basified with 4 M NaOH (pH 12-13) and washed with ethyl acetate. The combined organic extracts were washed with brine, and then dried over Na2SO4. Evaporation of the solvent afforded the title crude product as a yellow oil (3.8 g, yield 84%), which was used directly in the next step. LC-MS (ESI) m/z: 226 (M+1)+.

reactant | NaBH4 | 40 mmol, 1.52 g | [BH4-].[Na+]
reactant | 5-(4-bromophenyl)-3,4-dihydro-2H-pyrrole | 20 mmol, 4.48 g | BrC1=CC=C(C=C1)C=1CCCN1 | C10H10BrN
solvent | H2O MeOH | 30 mL | O.CO
product | 2-(4-Bromophenyl)pyrrolidine | 3.8 g, yield 84% | BrC1=CC=C(C=C1)C1NCCC1 | C10H12BrN
